US06458781B1
Preparation of (S)-Azepane-1-carboxylic acid (1-{4-[bis-(4-fluoro-phenyl)-methyl]-piperazin-1-ylmethyl}-3-methyl-butyl)-amide
To a solution of (S)-1-{4-[bis-(4-fluoro-phenyl)-methyl]-piperazin-1-ylmethyl}-3-methyl-butylamine monohydrochloride (189 mg, 0.46 mmol) in benzene (2 mL) were added sequentially N,N-diisopropylethylamine (0.26 mL, 1.5 mmol), 4-dimethylaminopyridine (20 mg), and azepane-1-carbonyl chloride (0.13 mL, 0.78 mmol) under nitrogen atmosphere. The resulting reaction mixture was refluxed for 16 hours, then cooled to ambient temperature. The reaction mixture was filtered to remove the white solid formed during the reaction; the filtrate was concentrated in vacuo. The residue was dissolved in EtOAc (25 mL) and washed successively with saturated aqueous NaHCO3 solution (25 mL), brine (2×25 mL), and dried over Na2SO4. The solution was concentrated in vacuo affording a slightly amber colored oil. The crude product was purified first by flash chromatography (50% EtOAc in hexanes), then by preparative plate (50% EtOAc in hexanes) affording 46.6 mg (20%) of the pure titled compound as a clear oil. APCI-MS m/z 513.3 (MH+).

reactant | (S)-1-{4-[bis-(4-fluoro-phenyl)-methyl]-piperazin-1-ylmethyl}-3-methyl-butylamine monohydrochloride | 0.46 mmol, 189 mg | Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)C[C@H](CC(C)C)N)C1=CC=C(C=C1)F
reactant | N,N-diisopropylethylamine | 1.5 mmol, 0.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | azepane-1-carbonyl chloride | 0.78 mmol, 0.13 mL | N1(CCCCCC1)C(=O)Cl | C7H12ClNO
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-Azepane-1-carboxylic acid (1-{4-[bis-(4-fluoro-phenyl)-methyl]-piperazin-1-ylmethyl}-3-methyl-butyl)-amide | 46.6 mg, 20% | FC1=CC=C(C=C1)C(N1CCN(CC1)C[C@H](CC(C)C)NC(=O)N1CCCCCC1)C1=CC=C(C=C1)F | C30H42F2N4O
